US07723356B2
Hydroxy-phenyl-o-tolyl-acetic acid
To a stirred suspension of magnesium (0.773 g, 31.81 mmol), iodine (cat. Amount) in THF (20 ml) is added dropwise, bromotoluene (3.83 ml, 31.81 mmol) in THF (30 ml). The reaction mixture is warmed to initiate the reaction and then allowed to stir at room temperature for 30 minutes. Meanwhile, a second mixture comprising benzoyl formic acid (4.342 g, 28.92 mmol) in THF (50 ml) is cooled in an ice bath. Sodium hydride (1.156 g of a 60% dispersion in mineral oil, 28.92 mmol) is added to the mixture, portionwise, ensuring the temperature does not rise above 10° C. Then the grignard reagent which has been stirring for 30 minutes is added dropwise and the reaction mixture is allowed to warm to room temperature. After stirring for 21 hours, the reaction mixture is partitioned between ethyl acetate (150 ml) and water (150 ml). The aqueous layer is acidified to pH 1 with 1 M hydrochloric acid and then extracted with ethyl acetate. The organic portions are combined, washed with brine, dried over MgSO4 and concentrated in vacuo. The crude residue is purified by chromatography on silica (eluting with ethyl acetate) to yield the titled compound.

reactant | magnesium | 31.81 mmol, 0.773 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | bromotoluene | 31.81 mmol, 3.83 ml | BrC1=C(C=CC=C1)C | C7H7Br
reactant | benzoyl formic acid | 28.92 mmol, 4.342 g | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | Sodium hydride | [H-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Hydroxy-phenyl-o-tolyl-acetic acid | OC(C(=O)O)(C1=C(C=CC=C1)C)C1=CC=CC=C1 | C15H14O3
